Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___.
 
Chief Complaint:
Abnormal LFT
S/P ERCP
 
Major Surgical or Invasive Procedure:
ERCP
 
History of Present Illness:
The patient is a ___ year old female with minimal past medical 
history other than chronic fatigue syndrome, who is being 
evaluated for jaundice and abnormal liver function tests, 
admitted for observation s/p ERCP. She was in her normal state 
of health until late ___, about one week after she returned 
from ___, when she developed several hours of mid-back 
pain and nausea. She presented to urgent care and abnormal liver 
function tests were noted ___ - T-bili 4.0 D-bili 2.4 AST: 
45 ALT: 96 ALk phos: 262).  Subsequently she has not had any 
pain or nausea/vomiting but has felt more fatigue and pruritis. 
Her total bilirubin peaked at 10.3 on ___ and has been slowly 
down-trending since that time ___ total bilirubin 4.5). She 
had an abdominal U/S that showed numerous gallstones but normal 
CBD. She had an MRCP that showed gallstones but biliary tree 
without choledocholithiasis or dilation. Lab tests has been 
unrevealing (see below). She had a liver biopsy on ___ that 
noted moderate intrahepatocytic cholestasis withi features that 
were most consisten with drug effect although biliary 
obstruction could not be excluded. She had another abdominal U/S 
on ___ that showed extra-hepatic biliary dilation. She was 
referrred for ERCP. 
.
The ERCP on ___ showed mild diffuse dilation was seen at the 
biliary tree. The tapering of the bile duct into the ampulla 
appeared to be normal but there was a subtle small filling 
defect in the distal common bile duct. No discrete stricture was 
noted. Normal intrahepatics. Given the presence of jaundice and 
the subtle filling defect noted in the distal bile duct, a 
sphincterotomy was performed. Several balloon sweeps were 
performed. No sludge or stones were noted. Cytology samples were 
obtained for histology using a brush in the lower third of the 
common bile duct.Given the minimal drainage of contrast after 
sphincterotomy, and the abdnormal LFTs of unclear etiology a 
biliary stent was placed successfully as a trial of biliary 
drainage.
.
She currently has no complaints other than pruritis.
 
Past Medical History:
-chronic fatigue syndrome
-cholelithiasis
-allergic rhinitis
-s/p tonsillectomy
-left renal cyst

 
Social History:
___
Family History:
-mother: COPD, lung cancer
-father: hypertension, ___ dementia

 
Physical Exam:
ADMISSION
Vitals: 97.6  BP:137/62  HR:56  RR:18  O2: 98%RA 
General: No acute distress, pleasant
HEENT:  oropharynx clear, mild scleral icterus
Neck:  no cervical LAD
CV:  S1, S2 regular rhythm, no murmurs
Lungs: unlabored, CTA bilaterally
Abdomen: soft, non-tender, non-distended
GU: no foley catheter
Ext:  warm, distal pulses intact
Neuro: alert, oriented, tongue midline, speech fluent, moves 
extremities antigravity, sensation grossly intact, gait not 
assessed

DISCHARGE
Vitals: 98.1  BP:128/53  HR:58  RR:18  O2: 98%RA 
General: No acute distress, pleasant
CV:  S1, S2 regular rhythm, no murmurs
Lungs: unlabored, CTA bilaterally
Abdomen: soft, non-tender, non-distended
Ext:  warm, distal pulses intact, no e/c/c
Neuro: alert, speech fluent, moves all extremities 
 
Pertinent Results:
total bilirubin: 4.5 (___)  5.3 (___)  7.2 (___) 10.3 (___)
direct bilirubin: 2.4 (___)  3 (___)  3.6 (___)
ALT: 621  (___)  595 (___)  509 (___)
AST: 329 (___)  308 (___)  269 (___)
alk phos: 243 (___)  245 (___)
monospot test: negative 
hepatitis A total antibody: positive 
hepatitis A IgM: negative
Hepatitis B PCR: negative
Hepatitis C Ab: Negative
Hep B surface Ag: negative
Hepatitis B surface Ab: 167 (immune)
EBV PCR: negative
CMV PCR: negative
___: Negative
anti-smooth muscle: Negative
anti-mitochondrial ab: negative
ceruloplasmin: 49 (WNL)
lead: 2 (WNL)
immunofixation: no monoclonal protein
IgA, IgG, IgM: normal
LKM-1: ___
Ferritin: 169
WBC: 7.1 (___)
HCT: 44.3 (___)
platelet 288 (___)
.
Liver needle biopsy biopsy (___): 
1.  Moderate intrahepatocytic and canalicular cholestasis. 
2.  Mild portal and minimal lobular mixed inflammation, 
consisting of lymphocytes, neutrophils, rare plasma cells and 
sparse eosinophils, with mild bile ductular proliferation. 
3.  Minimal small and large droplet steatosis. 
4.  Trichrome stain demonstrates focal, minimal expansion of 
portal fibrous tissue. 
5.  Iron stain is negative for iron deposition.
Note:  The features are most consistent with a drug effect; 
biliary obstruction is also possible, though somewhat less 
likely given the relative sparing of the larger/interlobular 
bile ducts sampled. Prominent plasma cells with marked 
periportal and lobular necroinflammatory activity to suggest 
involvement by autoimmune hepatitis are not identified in this 
sample. Further correlation with clinical and radiographic 
findings is recommended.
.
.
Imaging: 
RUQ ___: 
The gallbladder is somewhat contracted and contains numerous 
stones.  The common hepatic duct measures 7 mm.  The 
extrahepatic common bile duct measures 8 mm. The liver 
parenchyma shows no textural irregularity.  Three hemangiomas 
present.  These have been seen on prior ultrasound.  Normal 
portal and hepatic venous blood flow was present. Spleen was not 
enlarged.  Pancreas is unremarkable.  Aorta and IVC of normal 
caliber. The left kidney shows a cyst in the lower pole, but no 
mass or hydronephrosis. 
The right kidney appears normal.  
IMPRESSION:  Multiple gallstones.  Dilated extrahepatic biliary 
system. Hemangiomas in liver. 
.
ERCP (___): 
Given the presence of jaundice and the subtle filling defect 
noted in the distal bile duct, a sphincterotomy was performed in 
the 12 o'clock position using a sphincterotome over an existing 
guidewire.
Several balloon sweeps were performed. No sludge or stones were 
noted. Cytology samples were obtained for histology using a 
brush in the lower third of the common bile duct.Given the 
minimal drainage of contrast after sphincterotomy, and the 
unexplain abdnormal LFTs, a 5cm by ___ Cotton ___ biliary 
stent was placed successfully using a Oasis ___ stent 
introducer kit as a trial of biliary drainage. 
Impression: Normal major papilla 
Cannulation of the biliary duct was successful and deep with a 
sphincterotome A mild diffuse dilation was seen at the biliary 
tree. 
The tapering of the bile duct into the ampulla appeared to be 
normal but there was a subtle small filling defect in the distal 
common bile duct. No discrete stricture was noted. Normal 
intrahepatics. 
The gallbladder was partially visualized and it appeared to have 
stones inside.  Given the presence of jaundice and the filling 
defect noted in the distal bile duct, a sphincterotomy was 
performed. Several balloon sweeps were performed. No sludge or 
stones were noted. Cytology samples were obtained for histology 
using a brush in the lower third of the common bile duct. Given 
the minimal drainage of contrast after sphincterotomy, and the 
unexplained abnormal LFTs, a 5cm by ___ Cotton ___ biliary 
stent was placed successfully using a Oasis ___ stent 
introducer kit as a trial of biliary drainage.
 

___ 07:25AM BLOOD ALT-645* AST-395* AlkPhos-244* 
TotBili-4.4*
___ 07:25AM BLOOD Lipase-___ year old female with abnormal liver function tests of unclear 
etiology with ERCP without obvious biliary obstruction s/p 
sphincterotomy and stent placement with brushings
.
#JAUNDICE / ABNORMAL LFT / BILE DUCT OBSTRUCTION: Patient with 
abnormal LFT with evaluation to date including lab testing and 
imaging without clear source. Liver biopsy more consistet with 
drug effect although biliary obstruction is not excluded. She is 
now s/p ERCP that did not demonstrate an obvious obstruction 
although it is possible that she passed a stone given the 
improving bilirubin. She is now s/p sphincterotomy and biliary 
stent placement. Post procedure LFTs remained stable. Pt 
tolerated full diet and thus was stable for discharge. However 
she requires further investigation of her abnormal LFTs. Given 
admit and discharge over the weekend we were unable to schedule 
an appointment for her with Dr. ___ however pt was 
instructed to call her office on ___ for an appointment and I 
have emailed Dr. ___ this admission. She will also 
need follow up cytology/pathology results by ERCP. and Repeat 
ERCP in 4 weeks for stent removal. She had an appointment with 
hepatology scheduled prior to this admission. Pt was instructed 
to call office for earlier appointment.
.
#RENAL CYST: noted on imaging 
-outpatient follow up with CT/MRI at 6 and 12 months,then yearly 
for ___ years has been recommended by radiology
.
#LIVER HEMANGIOMA: 
-noted on imaging, outpatient follow-up
.
#CHRONIC FATIGUE SYNDROME: stable

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ursodiol 300 mg PO TID 

 
Discharge Medications:
1. Ursodiol 300 mg PO TID 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Transaminitis
Hyperbilirubinemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted for observation following an ERCP. You had 
biopsies taken during the procedure that remain pending at the 
time of discharge. You liver function tests did not change after 
the procedure and thus you should have further work up with an 
outpatient liver specialist (hepatologist) to determine why 
these numbers remain elevated.
 
Followup Instructions:
___